US06177440B1
A mixture of the 9-[(2-pyridyl)methyl]-4-hydroxy-5-carbamoyl carbazole (216 mg, 0.68 mmol) and Cs2CO3 (550 mg; 1.69 mmol) in 5 mL DMF was treated with methyl bromoacetate (0.08 mL; 0.85 mmol). The reaction was stirred until tlc analysis indicated complete consumption of starting material (2 hours). The mixture was concentrated and the residue taken up in H2O (50 mL). The aqueous layer was saturated with solid NaCl and was extracted five times with THF. The combined organic layers were dried over anhydrous sodium sulfate, filtered and concentrated. The solid was triturated with EtOAc to afford 205 mg (77%) of the {9-[(2-pyridyl)methyl]-5-carbamoylcarbazol-4-yl}oxyacetic acid, methyl ester as an off white solid. 1H NMR (DMSO-d6) δ 8.47 (d, 1H, J=4.9 Hz), 7.66-7.57 (m, 2H), 7.48 (br s, 1H), 7.38-7.27 (m, 2H), 7.24-7.19 (m, 2H), 7.19 (br s, 1H), 7.04 (d, 1H, J=7.3 Hz), 6.87 (d, 1H, J=7.8 Hz), 6.56 (d, 1H, J=7.8 Hz), 5.71 (s, 2H), 4.89 (s, 2H), and 3.69 (s, 3H). IR (CHCl3, cm−1) 3380, 3140, 1737, 1675, 1500, 1457, 1354, 1340, 1242, 1158, 772, and 715. MS (ES) m/e 390 (M+1).

reactant | 9-[(2-pyridyl)methyl]-4-hydroxy-5-carbamoyl carbazole | 0.68 mmol, 216 mg | N1=C(C=CC=C1)CN1C2=CC=CC(=C2C=2C(=CC=CC12)O)C(N)=O | C19H15N3O2
reactant | Cs2CO3 | 1.69 mmol, 550 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | methyl bromoacetate | 0.85 mmol, 0.08 mL | BrCC(=O)OC | C3H5BrO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | {9-[(2-pyridyl)methyl]-5-carbamoylcarbazol-4-yl}oxyacetic acid, methyl ester | 205 mg, 77% | N1=C(C=CC=C1)CN1C2=CC=CC(=C2C=2C(=CC=CC12)OCC(=O)OC)C(N)=O | C22H19N3O4
